US05316755
2,4,6-Triiodophenoxycyclopentane
Milled, anhydrous potassium carbonate (14.2 g, 103 mmol, 1.2 eq) was added in portions to a stirred solution of 2,4,6-triiodophenol (40.5 g, 85.8 mmol) in 50 ml of dry (4A sieves) dimethylformamide at room temperature. After stirring for 20 minutes, cyclopentyl bromide (12 ml, 112 mmol, 1.3 eq) in dimethylformamide (20 ml) was added and the viscous mixture was gradually heated to 130° C. under argon for approximately 45 minutes. After cooling, the mixture was filtered and the collected solid was washed with chloroform. The filtrate was concentrated in vacuo to give 50 g of an amber oil. The crude oily product was partitioned between ethyl acetate (300 ml) and water (500 ml); the organic layer was dried over magnesium sulfate and passed through a short pad of silica gel. The filtrate was treated with decolorizing carbon, filtered, and stripped to give an amber oil. The oil was dried at 60° C. under high vacuum to give 40.4 g (87%) of product.

reactant | potassium carbonate | 103 mmol, 14.2 g, 1.2 eq | C([O-])([O-])=O.[K+].[K+]
reactant | 2,4,6-triiodophenol | 85.8 mmol, 40.5 g | IC1=C(C(=CC(=C1)I)I)O | C6H3I3O
reactant | cyclopentyl bromide | 112 mmol, 12 ml, 1.3 eq | C1(CCCC1)Br | C5H9Br
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2,4,6-Triiodophenoxycyclopentane | 50 g | IC1=C(OC2CCCC2)C(=CC(=C1)I)I | C11H11I3O
